US09353107B2
Step-iii: 5-(4-(piperazin-1-yl)phenyl)-3-(1-(pyridin-3-ylmethyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine
Using similar reaction conditions as described in step-ii of example-7, tert-butyl 4-(4-(3-(1-(pyridin-3-ylmethyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazine-1-carboxylate (100 mg, 0.186 mmol) was deprotected with HCl in ether/methanol (2/3 ml). This afforded 9 mg (11.0% yield) of the titled compound. 1H NMR (CD3OD, 300 MHz): δ 8.54 (s, 1H), 8.34-8.28 (d, 1H), 8.50-8.49 (d, 1H), 8.43-8.42 (d, 1H), 8.307-8.300 (d, 1H), 8.23 (s, 1H), 7.93 (s, 1H), 7.79-7.77 (d, 1H), 7.64-7.61 (m, 3H), 7.45-7.41 (m, 1H), 7.14-7.11 (m, 2H), 5.49 (s, 2H), 3.38-3.31 (m, 4H), 3.30-3.23 (m, 4H). MS: m/z=436.2 (M+1), HPLC: 97.13% in method A.

reactant | tert-butyl 4-(4-(3-(1-(pyridin-3-ylmethyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazine-1-carboxylate | 0.186 mmol, 100 mg | N1=CC(=CC=C1)CN1N=CC(=C1)C1=CNC2=NC=C(C=C21)C2=CC=C(C=C2)N2CCN(CC2)C(=O)OC(C)(C)C | C31H33N7O2
reactant | HCl | Cl | ClH
solvent | ether methanol | 2/3 ml | CCOCC.CO
product | 5-(4-(piperazin-1-yl)phenyl)-3-(1-(pyridin-3-ylmethyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine | 9 mg, 11.0% yield | N1(CCNCC1)C1=CC=C(C=C1)C=1C=C2C(=NC1)NC=C2C=2C=NN(C2)CC=2C=NC=CC2 | C26H25N7
